US07977351B2
5-Fluoro-3-(6-phenyl-6H-thieno[2,3-c]furan-4-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (340 mg, 2.25 mmol.) in THF (3 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (4.5 mL of a 1 M solution in THF, 4.5 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and then warmed to room temperature. A solution of 6-phenyl-6H-thieno[2,3-c]furan-4-one, (320 mg, 1.5 mmol) in THF (6 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. and then poured into aqueous 10% HCl solution (50 mL). The resulting mixture is heated to 90° C. for 45 min and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration and dried. The solid obtained is purified by chromatography (silica gel, ethyl acetate/hexane) to give the title compound as a yellow solid (15 mg, 3%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 2.25 mmol, 340 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6-phenyl-6H-thieno[2,3-c]furan-4-one | 1.5 mmol, 320 mg | C1(=CC=CC=C1)C1OC(C2=C1SC=C2)=O | C12H8O2S
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(6-phenyl-6H-thieno[2,3-c]furan-4-ylidene)-1,3-dihydro-indol-2-one | 15 mg, 3% | FC=1C=C2C(C(NC2=CC1)=O)=C1C2=C(C(O1)C1=CC=CC=C1)SC=C2 | C20H12FNO2S
